US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and 2-bromo-3-methylpyridine (35 mg) instead of 4-bromobenzoic acid methyl ester used in Example 1-D-8, in the same manner as Example 1-D-08, a crude product of bis-(4-methoxy-benzyl)-{5-[7-(3-methyl-pyridin-2-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-amine was obtained, and then PMB group was removed according to the above Deprotection method 3, to obtain the desired compound (D-178) as a yellow solid (20 mg, 28%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 2-bromo-3-methylpyridine | 35 mg | BrC1=NC=CC=C1C | C6H6BrN
product | bis-(4-methoxy-benzyl)-{5-[7-(3-methyl-pyridin-2-yl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-pyrimidin-2-yl}-amine | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=NC=CC=C3C)CC3=CC=C(C=C3)OC)C=C1 | C36H38N8O3
